US04110472
3-Diphenylmethyl-5-(2-methoxy-4-n-propyl-phenoxymethyl)oxazolidine from 3-diphenylmethyl-5-chloromethyl-oxazolidine and sodium 2-methoxy-4-n-propyl-phenolate; this product is hydrolysed with alcoholic-aqueous hydrochloric acid to give 1-(2-methoxy-4-n-propyl-phenoxy)-2-hydroxy-3-diphenylmethylamino-propane hydrochloride with a melting point of 108°-110°.

reactant | 3-Diphenylmethyl-5-(2-methoxy-4-n-propyl-phenoxymethyl)oxazolidine | C1(=CC=CC=C1)C(N1COC(C1)COC1=C(C=C(C=C1)CCC)OC)C1=CC=CC=C1 | C27H31NO3
reactant | 3-diphenylmethyl-5-chloromethyl-oxazolidine | C1(=CC=CC=C1)C(N1COC(C1)CCl)C1=CC=CC=C1 | C17H18ClNO
reactant | sodium 2-methoxy-4-n-propyl-phenolate | COC1=C(C=CC(=C1)CCC)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 1-(2-methoxy-4-n-propyl-phenoxy)-2-hydroxy-3-diphenylmethylamino-propane hydrochloride | Cl.COC1=C(OCC(CNC(C2=CC=CC=C2)C2=CC=CC=C2)O)C=CC(=C1)CCC | InChI=1S/C26H31NO3.ClH/c1-3-10-20-15-16-24(25(17-20)29-2)30-19-23(28)18-27-26(21-11-6-4-7-12-21)22-13-8-5-9-14-22;/h4-9,11-17,23,26-28H,3,10,18-19H2,1-2H3;1H
